US06391891B1
1-Acetyl-7-(1-methyl-1,2,5,6-tetrahydropyridin-4-yl)-1,2,3,5-tetrahydropyrrolo [2,3-f]indole (D4)
To a stirred suspension of 1-acetyl-1,2,3,5-tetrahydropyrrolo[2,3-f]indole (J. Med. Chem. 1995, 38, 2524) (1.60 g, 8 mmole) and 1-methylpiperidin-4-one (1.81 g, 16 mmole) in dry methanol (70 ml) was added sodium methoxide (2.59 g, 48 mmole). The mixture was heated at reflux under argon for 24 hours, then cooled and concentrated by evaporation to approx. 25% volume; then treated with water (5 ml), stirred and the solid precipatate collected by filtration. The solid was suspended in ethanol (20 ml), heated to boiling, cooled and filtered to leave the title compound as a pale cream powder (1.20 g).

reactant | 1-acetyl-1,2,3,5-tetrahydropyrrolo[2,3-f]indole | 8 mmole, 1.60 g | C(C)(=O)N1CCC=2C1=CC=1C=CNC1C2 | C12H12N2O
reactant | 1-methylpiperidin-4-one | 16 mmole, 1.81 g | CN1CCC(CC1)=O | C6H11NO
reactant | sodium methoxide | 48 mmole, 2.59 g | C[O-].[Na+]
solvent | methanol | 70 ml | CO | CH4O
product | 1-Acetyl-7-(1-methyl-1,2,5,6-tetrahydropyridin-4-yl)-1,2,3,5-tetrahydropyrrolo [2,3-f]indole | 1.20 g | C(C)(=O)N1CCC=2C1=CC=1C(=CNC1C2)C2=CCN(CC2)C | C18H21N3O
